US04038396
A solution of 600 mg. of 2-(4-cyanophenyl)oxazolo[ 5,4-b]pyridine in 8 ml. of concentrated sulfuric acid was allowed to stand at room temperature for 16 hours. The solution was poured onto ice and the white precipitate was collected on a filter to give 2-(4-carbamylphenyl)oxazolo[ 5,4-b]pyridine, m.p. 315° C. (dec.).

reactant | 2-(4-cyanophenyl)oxazolo[ 5,4-b]pyridine | C(#N)C1=CC=C(C=C1)C=1OC2=NC=CC=C2N1 | C13H7N3O
reactant | sulfuric acid | S(O)(O)(=O)=O | H2O4S
product | 2-(4-carbamylphenyl)oxazolo[ 5,4-b]pyridine | C(N)(=O)C1=CC=C(C=C1)C=1OC2=NC=CC=C2N1 | C13H9N3O2
